US05371225
8-(2-Fluorophenyl)-l-benzocyclooctanone (Compound n)
In 10 ml of dimethylformamide were dissolved 2.0 g (7.9 mmol) of 8-bromo-l-benzocyclooctanone, 0.27 g (0.23 mmol) of tetrakis(triphenylphosphine) palladium and 2.0 g (8.6 mmol) of silver oxide, 4.6 g (11.9 mmol) of o-fluorophenyltributyl tin was added thereto, and the mixture was stirred under an argon atmosphere at 120° C for 2 hours. After cooling, an aqueous solution of ammonium fluoride was added to the reaction solution, and then stirred at room temperature for 12 hours. The reaction solution was filtered through celite, washed with ethyl acetate and water, and then extracted. The organic layer was washed with saline and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and then separated and purified by silica gel column chromatography [elution solvent: hexane-ethyl acetate (9:1)]to obtain 0.84 g (40%) of the desired compound.

reactant | 8-bromo-l-benzocyclooctanone | 7.9 mmol, 2.0 g | BrC1CCCC2=C(CC1)C(CC=C2)=O | C12H15BrO
reactant | o-fluorophenyltributyl tin | 11.9 mmol, 4.6 g | FC1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | ammonium fluoride | [F-].[NH4+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium | 0.23 mmol, 0.27 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | silver oxide | 8.6 mmol, 2.0 g | [Ag]=O
product | 8-(2-Fluorophenyl)-l-benzocyclooctanone | 0.84 g, 40% | FC1=C(C=CC=C1)C1CCCC2=C(CC1)C(CC=C2)=O | C18H19FO
